Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:13].[H:1][C:2]([H:3])=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]([H:3])=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-5.009442236540001
[H:1][C:2][O:3][C:4]#[C:5][C:7]([H:8])=[C:9][H:10].[H:6]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10],-2.51456176115
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.08381160236
[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.29189595015
[C:1][O:2][C:3]#[C:4].[C:5](=[O:6])[H:7]>>[C:1][O:2][C:3]#[C:4][C:5](=[O:6])[H:7],-3.63402498201
[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.9928326075300005
[C:1]#[C:2][H:3].[C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]/[C:2]([H:3])=[C:4](/[O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-2.5728944046
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C@:5]12[O:6][C@:7]1([H:8])[C:9]2[H:10],-2.8758786146
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15].[H:1],4.9239764571
[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]1=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14].[H:3],2.79747065358
[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][H:7]>>[C:1]=[C:2]([H:3])[H:4].[C:5]#[C:6][H:7],2.62671767082
[H:13].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.94409816772
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],3.75932472374
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.38954093987
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:11].[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[O:12][H:13],2.23287048976
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.72750887137
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.70476903893
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])([C:11])[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:12]([H:13])[H:14],3.70768403525
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9].[H:10],3.93365959809
[H:1][O:2][C:3](=[C:4][H:5])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-5.15183399428
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],1.83723970958
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:7],1.7320383558
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][O:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][O:10],-4.03065482
[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[H:4].[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.87913631258
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.94753849456
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C@:4]1([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.942816941029
[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([O:3][C:4][H:5])[C:12]([H:13])([H:14])[H:15],6.976881295369999
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:4],1.47806355625
